US08217177B2
In a 10 mL round bottom flask under N2 was dissolved tert-butyl (6-formyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (200 mg, 721 μmol) in 3 mL of THF then cooled at −78° C. and treated with methylmagnesium bromide (721 μl, 2164 μmol). After 30 minutes, the reaction mixture was warmed to 0° C. over 1 h. After 1 h the reaction mixture based on LC-MS was neutralized with NH4Cl (sat.). The aqueous phase was extracted 3× with DCM then the organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude tert-butyl (6-(1-hydroxyethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (202 mg, 95.5% yield) was used without further purification in the next step. MS m/z=294.4 [M+1]+. Calc'd for C13H19N5O3: 293.3.

reactant | tert-butyl (6-formyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 721 μmol, 200 mg | C(=O)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C12H15N5O3
reactant | methylmagnesium bromide | 2164 μmol, 721 μl | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl (6-(1-hydroxyethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 202 mg, 95.5% yield | OC(C)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C13H19N5O3
